US07863332B2
d. Synthesis of (E)-3-[3,5-difluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylic acid
In a manner similar to that of Example (19g), by reaction of 400 mg (10 mmol, 7.0 eq) of sodium hydroxide and 630 mg (1.41 mmol, 1 eq) of methyl (E)-3-[3,5-difluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylate in 15 ml of a tetrahydrofuran/methanol mixture (8/2), and after crystallization from dichloromethane/heptane, 450 mg of (E)-3-[3,5-difluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylic acid are obtained in the form of a white powder (m.p.=136° C.). Yield=74%

reactant | sodium hydroxide | 10 mmol, 400 mg, 7.0 eq | [OH-].[Na+]
reactant | methyl (E)-3-[3,5-difluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylate | 1.41 mmol, 630 mg, 1 eq | FC=1C=C(C=C(C1/C=C/C(=O)OC)F)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C25H30F2N2O3
solvent | tetrahydrofuran methanol | 15 ml | O1CCCC1.CO
product | (E)-3-[3,5-difluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]acrylic acid | Yield=74% | FC=1C=C(C=C(C1/C=C/C(=O)O)F)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C24H28F2N2O3
